US08455499B2
Step 1: 1-[3-(4-{4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-phenyl)-prop-2-ynyl]-1H-imidazole-4-carboxylic acid methyl ester
Prepared according to the procedure described in Example 5, Step 2, using the following starting materials: {5-[4-(3-hydroxy-prop-1-ynyl)-phenyl]-3-methyl-isoxazol-4-yl}-carbamic acid 1-(2-chloro-phenyl)-ethyl ester and methyl 4-imidazolecarboxylate.

reactant | {5-[4-(3-hydroxy-prop-1-ynyl)-phenyl]-3-methyl-isoxazol-4-yl}-carbamic acid 1-(2-chloro-phenyl)-ethyl ester | ClC1=C(C=CC=C1)C(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C#CCO)C)=O | C22H19ClN2O4
reactant | methyl 4-imidazolecarboxylate | N1C=NC(=C1)C(=O)OC | C5H6N2O2
product | 1-[3-(4-{4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-phenyl)-prop-2-ynyl]-1H-imidazole-4-carboxylic acid methyl ester | COC(=O)C=1N=CN(C1)CC#CC1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OC(C)C1=C(C=CC=C1)Cl | C27H23ClN4O5
